US09102614B2
Preparation of (S)-ethyl 2-tert-butoxy-2-(7-fluoro-3-methyl-6-(methylcarbamoyl)-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate:
A Smith process vial was charged with (S)-ethyl 2-tert-butoxy-2-(6-chloro-7-fluoro-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate (131.8 mg, 0.263 mmol), 2 M methylamine in THF (0.66 mL, 1.32 mmol), molybdenum hexacarbonyl (0.069 g, 0.263 mmol), BrettPhos Palladacycle (29 mg, 0.0395 mmol), and triethylamine (0.128 mL, 0.921 mmol). Toluene (1.5 mL) was added and mixture was heated in microwave at 140° C. for 1.5 hour. The reaction mixture was diluted with ethyl acetate, washed brine, dried (MgSO4), filtered, concentrated and purified by flash column chromatography (silica gel, 0 to 50% ethyl acetate/hexanes) to give an off-white solid (19.2 mg). LCMS-ESI+ (m/z): [M+H]+ calcd for C22H26F4NO7S: 524.5; Found: 524.0.

reactant | (S)-ethyl 2-tert-butoxy-2-(6-chloro-7-fluoro-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate | 0.263 mmol, 131.8 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC(=C(C=C2C=C1C)Cl)F)OS(=O)(=O)C(F)(F)F | C20H21ClF4O6S
reactant | methylamine | 2 M | CN | CH5N
reactant | THF | 1.32 mmol, 0.66 mL | C1CCOC1 | C4H8O
reactant | triethylamine | 0.921 mmol, 0.128 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | molybdenum hexacarbonyl | 0.263 mmol, 0.069 g | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Mo]
catalyst | BrettPhos Palladacycle | 0.0395 mmol, 29 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C.C1=CC=C([C-]=C1)CCN.Cl[Pd+]
solvent | Toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-ethyl 2-tert-butoxy-2-(7-fluoro-3-methyl-6-(methylcarbamoyl)-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)acetate | 19.2 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC(=C(C=C2C=C1C)C(NC)=O)F)OS(=O)(=O)C(F)(F)F | C22H25F4NO7S
